US06004724
10 g (42 mmol) of (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-(4-methylphenyl)-acetonitrile are dissolved in 80 ml of THF and cooled in an ice bath. After adding 8.8 ml (63 mmol) of triethylamine to the solution, 3.6 ml (47 mmol) of methanesulfonyl chloride are added dropwise, keeping the temperature below 5° C. The reaction mixture is stirred in the ice bath for 30 min. The reaction mixture is poured into 200 ml of water, and extracted with ethyl acetate. The organic phase is washed with hydrochloric acid solution, water, and sodium chloride solution. The organic phase is dried over MgSO4, the solvent is distilled off, and the residue is purified by recrystallization from toluene. 4.6 g (35%) of (4-Methylsulfonyloxyimino-cyclohexa-2,5-dienylidene)-(4-methylphenyl)-acetonitrile are obtained in the form of yellow crystals having a melting point of 139-141° C. (dec.).

reactant | (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-(4-methylphenyl)-acetonitrile | 42 mmol, 10 g | ON=C1C=CC(C=C1)=C(C#N)C1=CC=C(C=C1)C | C15H12N2O
reactant | triethylamine | 63 mmol, 8.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 47 mmol, 3.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 200 ml | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | (4-Methylsulfonyloxyimino-cyclohexa-2,5-dienylidene)-(4-methylphenyl)-acetonitrile | 4.6 g, 35% | CS(=O)(=O)ON=C1C=CC(C=C1)=C(C#N)C1=CC=C(C=C1)C | C16H14N2O3S
